US06509328B1
2-[7-(2-Fluoro-phenyl)-4-oxo-4,5-dihydro-1H-benzo [b][1,4]diazepin-2-yl]-thiophene-3-carbonitrile
Prepared from {3-[3-(3-cyano-thiophen-2-yl)-3-oxo-propionylamino]-2′-fluoro-biphenyl-4-yl}-carbamic acid tert.-butyl ester (Example K55) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a yellow solid (258 mg).

reactant | {3-[3-(3-cyano-thiophen-2-yl)-3-oxo-propionylamino]-2′-fluoro-biphenyl-4-yl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(=O)C=1SC=CC1C#N)=O)=O | C25H22FN3O4S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-[7-(2-Fluoro-phenyl)-4-oxo-4,5-dihydro-1H-benzo [b][1,4]diazepin-2-yl]-thiophene-3-carbonitrile | 258 mg | FC1=C(C=CC=C1)C1=CC2=C(NC(=CC(N2)=O)C=2SC=CC2C#N)C=C1 | C20H12FN3OS
